US07091198B1
tert-Butyl 7-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate
1.00 g of sodium hydroxide in 5 ml of water is added to 5.00 g (23 mmol) of 7-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane in 25 ml of tert-butanol, and 5.30 g (24 mmol) of di-tert-butyl pyrocarbonate are added dropwise. The mixture is stirred at room temperature overnight, 50 ml of water are added, three chloroform extractions and drying over magnesium sulfate are carried out, the desiccant is filtered off with suction, the filtrate is concentrated, and the crystalline residue is stirred with n-hexane. The crystals are filtered off with suction and dried in air. 5.80 g of the product (73% of theory) are obtained.

reactant | sodium hydroxide | 1.00 g | [OH-].[Na+]
reactant | 7-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane | 23 mmol, 5.00 g | C(C1=CC=CC=C1)N1CC2CNCC(C1)O2 | C13H18N2O
reactant | di-tert-butyl pyrocarbonate | 24 mmol, 5.30 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
solvent | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
solvent | water | 50 ml | O | H2O
product | tert-Butyl 7-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | 5.80 g, 73% | C(C1=CC=CC=C1)N1CC2CN(CC(C1)O2)C(=O)OC(C)(C)C | C18H26N2O3
